US08791255B2
1.1 g of sodium cyanoborohydride is gradually added to a solution of 1 g of gramine in 20 ml of trifluoroacetic acid, under argon, cooled in an ice bath, and stirred for half an hour at 0° C. and then for 2 h at ambient temperature. The reaction medium is plunged into 50 g of ice and alkalinized using 30% sodium hydroxide, and is then extracted with four times 30 ml of ethyl acetate. The organic phase is washed with 20 ml of water, dried over anhydrous magnesium sulphate, filtered, and then concentrated to dryness under reduced pressure. After a silica column purification, eluent: 85/15 v/v CH2Cl2/MeOH, 660 mg of (2,3-dihydro-1H-indol-3-ylmethyl)dimethylamine are obtained in the form of a yellow solid, the characteristics of which are the following:

reactant | sodium cyanoborohydride | 1.1 g | C(#N)[BH3-].[Na+]
reactant | gramine | 1 g | CN(C)CC1=CNC2=C1C=CC=C2 | C11H14N2
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2,3-dihydro-1H-indol-3-ylmethyl)dimethylamine | 660 mg | N1CC(C2=CC=CC=C12)CN(C)C | C11H16N2
